US08026236B2
Methyl 6-(hydroxymethyl)picolinate (0.598 mmol, 100 mg) was suspended in dimethylamine (2M in MeOH) (2.99 mmol, 1496 μl) and heated to 150° C. for 20 minutes in a microwave. Heating was repeated for a further 20 minutes then further dimethylamine (2M in MeOH) (2.99 mmol, 1496 μl) added and heating repeated again for 20 minutes. Solvent was evaporated under reduced pressure to yield 6-(hydroxymethyl)-N,N-dimethylpicolinamide (103% yield) as a clear oil. 1H NMR (CD3OD) δ: 7.95 (d, 1H), 7.82 (t, 1H), 7.50 (d, 1H), 4.75 (s, 2H), 2.73 (s, 6H).

reactant | Methyl 6-(hydroxymethyl)picolinate | 0.598 mmol, 100 mg | OCC1=CC=CC(=N1)C(=O)OC | C8H9NO3
reactant | dimethylamine | 2.99 mmol, 2M, 1496 μl | CNC | C2H7N
reactant | dimethylamine | 2.99 mmol, 2M, 1496 μl | CNC | C2H7N
product | 6-(hydroxymethyl)-N,N-dimethylpicolinamide | 103% yield | OCC1=CC=CC(=N1)C(=O)N(C)C | C9H12N2O2
